US06265411B1
Diethyl malonate (44.6ml, 293 mmol) was added dropwise over 1.5 hours to a suspension of sodium hydride (11.7 g of a 60% suspension in mineral oil, 293 mmol) in DMF under argon and the reaction mixture was stirred at ambient temperature for 30 minutes. The resulting solution was added dropwise over 1 hour to a solution of 2-chloro-5-cyano-1-nitrobenzene (24.3 g, 133 mmol) in DMF (75 ml) cooled with a dry ice/acetone bath. The temperature of the cooling bath was adjusted to prevent the freezing of the red reaction mixture. After the addition was completed, the reaction was left to rise to ambient temperature over 2 hours. The resulting red solution was poured slowly into a stirred mixture of ice (100 ml) and 1M hydrochloric acid (10 ml). The resulting yellow precipitate was collected by filtration, washed with water until the filtrate was at pH7.0 and then dried under vacuum to give diethyl (4-cyano-2-nitrophenyl)malonate (39.6 g, 97%).

reactant | Diethyl malonate | 293 mmol, 44.6ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-5-cyano-1-nitrobenzene | 133 mmol, 24.3 g | ClC1=C(C=C(C=C1)C#N)[N+](=O)[O-] | C7H3ClN2O2
reactant | hydrochloric acid | 1M, 10 ml | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | diethyl (4-cyano-2-nitrophenyl)malonate | 39.6 g, 97% | C(#N)C1=CC(=C(C=C1)C(C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C14H14N2O6
